US08003651B2
tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((5R,7R)-7-fluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(cyclopropylmethyl)carbamate (0.955 g, 1.669 mmol) was dissolved in dioxane (20 mL). The solution was treated with HCl in dioxane (10.43 mL, 41.73 mmol; 4M), and the mixture was stirred at ambient temperature for 16 hours. HPLC showed no SM remaining, so the reaction mixture was concentrated in vacuo, re-dissolved in MeOH and re-concentrated (3×). The residue was re-dissolved in MeOH (about 4.5 mL+2 mL wash) and added dropwise to stirred ether (about 190 mL). The suspension was stirred for 30 minutes then filtered and dried under nitrogen blanket to give (S)-2-(4-chlorophenyl)-3-(cyclopropylmethylamino)-1-(4-((5R,7R)-7-fluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride (797 mg, 88%) as a solid. LC/MS (APCI+, FIA) m/z 472.2/474.2 [M+H]+

reactant | tert-butyl (S)-2-(4-chlorophenyl)-3-(4-((5R,7R)-7-fluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(cyclopropylmethyl)carbamate | 1.669 mmol, 0.955 g | ClC1=CC=C(C=C1)[C@@H](CN(C(OC(C)(C)C)=O)CC1CC1)C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)F | C30H39ClFN5O3
reactant | HCl | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 41.73 mmol, 4M, 10.43 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(4-chlorophenyl)-3-(cyclopropylmethylamino)-1-(4-((5R,7R)-7-fluoro-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)propan-1-one dihydrochloride | 797 mg, 88% | Cl.Cl.ClC1=CC=C(C=C1)[C@H](C(=O)N1CCN(CC1)C=1C2=C(N=CN1)[C@@H](C[C@H]2C)F)CNCC2CC2 | InChI=1S/C25H31ClFN5O.2ClH/c1-16-12-21(27)23-22(16)24(30-15-29-23)31-8-10-32(11-9-31)25(33)20(14-28-13-17-2-3-17)18-4-6-19(26)7-5-18;;/h4-7,15-17,20-21,28H,2-3,8-14H2,1H3;2*1H/t16-,20-,21-;;/m1../s1
